US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-(3-chloro-4-hydroxy-5-methylphenyl)-4-pyrimidineamine with 3-hydroxyaniline gave N4-(3-chloro-4-hydroxy-5-methylphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. LCMS: retn, time: 18.20 min.; purity: 94%; MS (m/e): 360 (M+); 1 (DMSO-d6): δ 9.26 (1H, s), 9.23 (1H, s), 9.16 (1H, s), 8.89 (1H, s), 8.14 (1H, d, J=4.5 Hz), 7.66 (1H, d, J=2.1 Hz), 7.60 (1H, d, J=2.1 Hz), 7.29 (1H, d, J=8.4 Hz), 7.11 (1H, s), 7.06 (1H, t, J=8.4 Hz), 6.41 (1H, d, J=8.4 Hz), 2.30 (3H, s).

reactant | 2-chloro-5-fluoro-N4-(3-chloro-4-hydroxy-5-methylphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=C(C(=C1)C)O)Cl)F | C11H8Cl2FN3O
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N4-(3-chloro-4-hydroxy-5-methylphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | ClC=1C=C(C=C(C1O)C)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C17H14ClFN4O2
